US07906516B2
1.01 g (5.00 mmol) of 4-nitrophenyl chloroformate and 0.404 ml (5.00 mmol) of pyridine are added to a solution of 961 mg (5.00 mmol) of 4-(4-aminophenyl)morpholin-3-one in 10 ml of dichloromethane, and the mixture is stirred at room temperature for 1 hour. 1.31 g (5.00 mmol) of (R)-2-(4-chlorophenylcarbamoyl)pyrrolidinium chloride and 2.55 ml (15.0 mmol) of N-ethyldiisopropylamine are added to the suspension. The reaction mixture is stirred at room temperature for 12 hours and then evaporated, and the residue is chromatographed on a silica-gel column, giving 2-N-[(4-chlorophenyl)]-1-N-{[4-(3-oxomorpholin-4-yl)phenyl]}-(R)-pyrrolidine-1,2-dicarboxamide as a yellowish solid, ESI 443.

reactant | 4-nitrophenyl chloroformate | 5.00 mmol, 1.01 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 5.00 mmol, 0.404 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-(4-aminophenyl)morpholin-3-one | 5.00 mmol, 961 mg | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
reactant | (R)-2-(4-chlorophenylcarbamoyl)pyrrolidinium chloride | 5.00 mmol, 1.31 g | [Cl-].ClC1=CC=C(C=C1)NC(=O)[C@@H]1[NH2+]CCC1
reactant | N-ethyldiisopropylamine | 15.0 mmol, 2.55 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-N-[(4-chlorophenyl)]-1-N-{[4-(3-oxomorpholin-4-yl)phenyl]}-(R)-pyrrolidine-1,2-dicarboxamide | ClC1=CC=C(C=C1)NC(=O)[C@@H]1N(CCC1)C(=O)NC1=CC=C(C=C1)N1C(COCC1)=O | C22H23ClN4O4
